US08198279B2
Tert-butyl 2-fluoro-4-(3-(4-methylpiperazin-1-yl)pyrido[3,2-b]pyrazin-8-yloxy)phenylcarbamate
Method D6 was used with N-methylpiperazine and tert-butyl 4-(3-chloropyrido[2,3-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate to give the title compound as a yellow solid. Yield: 142 mg (92%).

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | tert-butyl 4-(3-chloropyrido[2,3-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate | ClC1=CN=C2C(=N1)N=CC=C2OC2=CC(=C(C=C2)NC(OC(C)(C)C)=O)F | C18H16ClFN4O3
product | Tert-butyl 2-fluoro-4-(3-(4-methylpiperazin-1-yl)pyrido[3,2-b]pyrazin-8-yloxy)phenylcarbamate | FC1=C(C=CC(=C1)OC1=CC=NC=2C1=NC=C(N2)N2CCN(CC2)C)NC(OC(C)(C)C)=O | C23H27FN6O3
